### PR TITLE
[Merged by Bors] - refactor(Analysis/Calculus): redefine `HasFDerivAtFilter`

### PR DESCRIPTION
**Pull request by urkud**
Make `HasFDerivAtFilter` and `HasDerivAtFilter` to take a filter in the Cartesian square of the domain,
so that it works for `HasStrictFDerivAt` and `HasStrictDerivAt`.

Other changes:

- golf proofs about `hasDerivAt_pi` etc, dropping `[Finite ι]` assumption;
- move proofs about `HasFDerivAtFilter` before `HasStrictFDerivAt`, use them;
- add lemmas like `hasFDerivAt_iff_isLittleO`, since the old idiom `rw [HasFDerivAt, hasFDerivAtFilter_iff_isLittleO]` no longer gives the desired result.

See [Zulip discussion](https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/generalizing.20HasFDerivAtFilter/with/572031922)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Komyyy** [comment]
Thank you for your contributions!
Can you add a reference to the Zulip discussion in the PR message?

Discussion link: https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/generalizing.20HasFDerivAtFilter/with/572031922

File: Mathlib/Analysis/Calculus/Deriv/Basic.lean [hunk 1]
```diff
@@ -22,8 +22,8 @@ The theory is developed analogously to the [Fréchet
 derivatives](./fderiv.html). We first introduce predicates defined in terms
 of the corresponding predicates for Fréchet derivatives:
 
-- `HasDerivAtFilter f f' x L` states that the function `f` has the
-  derivative `f'` at the point `x` as `x` goes along the filter `L`.
+- `HasDerivAtFilter f f' L` states that the function `f` has the
+  derivative `f'` along the filter `L`.
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/Deriv/Basic.lean]:
```suggestion
  derivative `f'` along the filter `L : Filter (𝕜 × 𝕜)`.
```

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 2]
```diff
@@ -68,41 +68,38 @@ usual multiplication in `comp` lemmas.
...
 
-theorem HasDerivAtFilter.scomp (hg : HasDerivAtFilter g₁ g₁' (h x) L')
-    (hh : HasDerivAtFilter h h' x L) (hL : Tendsto h L L') :
-    HasDerivAtFilter (g₁ ∘ h) (h' • g₁') x L := by
-  simpa using ((hg.restrictScalars 𝕜).comp x hh hL).hasDerivAtFilter
-
-theorem HasDerivAtFilter.scomp_of_eq (hg : HasDerivAtFilter g₁ g₁' y L')
-    (hh : HasDerivAtFilter h h' x L) (hy : y = h x) (hL : Tendsto h L L') :
-    HasDerivAtFilter (g₁ ∘ h) (h' • g₁') x L := by
-  rw [hy] at hg; exact hg.scomp x hh hL
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:81]: Do you think we should add a specialized deprecated lemma to replace this one? I'm okay if the answer to this is "no".

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 3]
```diff
@@ -152,26 +150,18 @@ theorem deriv.scomp_of_eq
...
+    HasFDerivAtFilter (h₂ ∘ f) (h₂' • f') L'' := by
+  convert (hh₂.restrictScalars 𝕜).comp hf hL
   ext x
   simp [mul_comm]
 
-theorem HasDerivAtFilter.comp_hasFDerivAtFilter_of_eq
-    {f : E → 𝕜'} {f' : E →L[𝕜] 𝕜'} (x) {L'' : Filter E}
-    (hh₂ : HasDerivAtFilter h₂ h₂' y L') (hf : HasFDerivAtFilter f f' x L'')
-    (hL : Tendsto f L'' L') (hy : y = f x) : HasFDerivAtFilter (h₂ ∘ f) (h₂' • f') x L'' := by
-  rw [hy] at hh₂; exact hh₂.comp_hasFDerivAtFilter x hf hL
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:166]: likewise here.

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean [hunk 4]
```diff
@@ -220,16 +212,11 @@ theorem HasDerivWithinAt.comp_hasFDerivAt_of_eq {f : E → 𝕜'} {f' : E →L[
...
+theorem HasDerivAtFilter.comp (hh₂ : HasDerivAtFilter h₂ h₂' L')
+    (hh : HasDerivAtFilter h h' L) (hL : Tendsto (Prod.map h h) L L') :
+    HasDerivAtFilter (h₂ ∘ h) (h₂' * h') L := by
   rw [mul_comm]
-  exact hh₂.scomp x hh hL
-
-theorem HasDerivAtFilter.comp_of_eq (hh₂ : HasDerivAtFilter h₂ h₂' y L')
-    (hh : HasDerivAtFilter h h' x L) (hL : Tendsto h L L') (hy : y = h x) :
-    HasDerivAtFilter (h₂ ∘ h) (h₂' * h') x L := by
-  rw [hy] at hh₂; exact hh₂.comp x hh hL
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/Deriv/Comp.lean:232]: and here.

**Review by j-loreaux — COMMENTED** [review]
I'm happy with whatever you decide about the few lemmas that got deleted because they were now too specialized.

Thanks for doing this! It's a great change!

bors d+

File: Mathlib/Analysis/Calculus/Deriv/Comp.lean (hunk 2 above)
Comment (urkud) [reply Mathlib/Analysis/Calculus/Deriv/Comp.lean:81]: I got lazy when I was writing the PR. I'll do it before merging.
